US05166214
Part A. To a solution of 4,5-diphenyl-2-imidazolethiol (25.2 g, 0.1 mol) in N,N-dimethylformamide (250 mL) was added, dropwise, a solution of ethyl 5-bromopentanoate (23.73 mL, 31.35 g, 0.15 mol) in N,N-dimethylformamide (80 mL), and the reaction mixture was stirred at reflux under nitrogen for 18 hours. The reaction mixture was cooled, poured into 5% sodium bicarbonate and ice, and then extracted with ethyl acetate. The combined organic extracts were washed sequentially with 5% sodium bicarbonate, water, saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under vacuum. The residue was chromatographed with 7:3 hexane-ethyl acetate, and the resulting solid was recrystallized from acetonitrile and triturated with hexane to give 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid ethyl ester (25.95 g, 0.068 mol) as a white solid, mp 87°-89°. 1H NMR (DMSO-d6) δ7.55-7.15(m,11H), 4.0(q,2H,J=8Hz), 2.9(t,2H,J=7Hz), 2.3(t,2H,J=7Hz), 1.9-1.6(m,4H), 1.2(t,3H,J=8Hz).

reactant | 4,5-diphenyl-2-imidazolethiol | 0.1 mol, 25.2 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)S | C15H12N2S
reactant | ethyl 5-bromopentanoate | 0.15 mol, 23.73 mL, 31.35 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid ethyl ester | 0.068 mol, 25.95 g | C(C)OC(CCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H24N2O2S
